US05055465
2-Ethyl-1-(2-nitro-5-fluorophenyl)-4-methyl-1H-imidazole
Combine 100 g of 2,4-difluoronitrobenzene, 69 g of 2-ethyl-4-methylimidazole and 100 g of K2CO3 in 700 mL of acetonitrile, and stir at room temperature for 4 days. Remove the solvent under vacuum. Slurry the residue in 300 mL of CH2Cl2 and chromatograph over 1 kg of silica gel using CH2Cl2. Combine the appropriate fractions and remove the solvent under vacuum. Crystallize the residue from pet ether to provide the title compound.

reactant | 2,4-difluoronitrobenzene | 100 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 2-ethyl-4-methylimidazole | 69 g | C(C)C=1NC=C(N1)C | C6H10N2
reactant | K2CO3 | 100 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 700 mL | C(C)#N | C2H3N
product | 2-Ethyl-1-(2-nitro-5-fluorophenyl)-4-methyl-1H-imidazole | C(C)C=1N(C=C(N1)C)C1=C(C=CC(=C1)F)[N+](=O)[O-] | C12H12FN3O2
